US04550107
5,10-Dihydro-5-[[2-[2-(dimethylamino)ethyl]-1-piperidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 2 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-[2-(dimethylamino)ethyl]piperidine to give colorless crystals, mp. 155°-157° C. (acetonitrile).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | 2-[2-(dimethylamino)ethyl]piperidine | CN(CCC1NCCCC1)C | C9H20N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,10-Dihydro-5-[[2-[2-(dimethylamino)ethyl]-1-piperidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN(CCC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2)C | C24H30N4O2
